US04654358
8-(1.4.5-Triphenylimidazol-2-yl mercapto)-octanoic acid sodium salt
12 g of 8-(1.4.5-triphenylimidazol-2-yl mercapto)-octanoic acid are dissolved in 250 cc. of 96% ethanol. The equivalent amount of ethanolic sodalye (1 g of NaOH in 10 cc. of ethanol) is added and the mixture is stirred for a short time and evaporated to dryness in a vacuo. The residue is pulverized.

reactant | 8-(1.4.5-triphenylimidazol-2-yl mercapto)-octanoic acid | 12 g | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCCCCCCCC(=O)O | C29H30N2O2S
reactant | NaOH | 1 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 8-(1.4.5-Triphenylimidazol-2-yl mercapto)-octanoic acid sodium salt | [Na+].C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCCCCCCCC(=O)[O-] | InChI=1S/C29H30N2O2S.Na/c32-26(33)21-13-2-1-3-14-22-34-29-30-27(23-15-7-4-8-16-23)28(24-17-9-5-10-18-24)31(29)25-19-11-6-12-20-25;/h4-12,15-20H,1-3,13-14,21-22H2,(H,32,33);/q;+1/p-1
